US07700594B2
4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)-N,N-dimethylpiperidine-1-carboxamide
A mixture of 1-(1H-indol-2-yl)-3-piperidin-4-ylimidazo[1,5-a]pyrazin-8-amine hydrochloride (30.0 mg, 0.0679mmol), N,N-diisopropylethylamine (59.1 μL, 0.340 mmol) and DMF (100 mL) was treated with N,N-dimethylcarbamoyl chloride (6.23 μL, 0.0679 mmol) and stirred at rt for 1 h prior to semi-preparative HPLC to afford the isolated title compound. 1H NMR (400 MHz, CD3OD) ppm: 8.32 (br. s., 1H), 7.59-7.66 (m, 2H), 7.46 (d, 1H, J=8.3 Hz), 7.15-7.22 (m, 1H), 7.01-7.10 (m, 2H), 6.74 (s, 1H), 3.82 (d, 2H, J=12.6 Hz), 3.34-3.42 (m, 1H), 2.97-3.09 (m, 2H), 2.87 (s, 6H), 1.95-2.09 (m, 4H); MS (ES+): m/z 404.14 [MH+].

reactant | 1-(1H-indol-2-yl)-3-piperidin-4-ylimidazo[1,5-a]pyrazin-8-amine hydrochloride | 0.0679mmol, 30.0 mg | Cl.N1C(=CC2=CC=CC=C12)C=1N=C(N2C1C(=NC=C2)N)C2CCNCC2
reactant | N,N-diisopropylethylamine | 0.340 mmol, 59.1 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylcarbamoyl chloride | 0.0679 mmol, 6.23 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)-N,N-dimethylpiperidine-1-carboxamide | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)C2CCN(CC2)C(=O)N(C)C | C22H25N7O
